US04755510
II. 2-Acetyl-3-phenyl-tetrahydro-1,2,4-oxadiazine-5-thion
1.48 g (10 millimoles) of alpha-(acetylaminooxy)-thioacetamide are dissolved in a mixture of 10 ml of acetic acid and 1.3 ml of acetic anhydride, thereafter 1.3 ml (13 millimoles) of freshly distilled benzaldehyde and then 0.5 ml of concentrated sulfuric acid are added. The mixture is stirred for 3 hours at room temperature, then 2.8 g of crystalline sodium acetate are added, stirred for 10 minutes, thereafter the solvent is evaporated under vacuum. The residue is dissolved in 30 ml of ethyl acetate, the solution is extracted with 20 ml of water. The organic layer is dried over anhydrous sodium sulfate then evaporated to dryness. The residue is crystallized from ethanol at a temperature of +5° C. 1.25 g (52.9%) of crystalline title product are obtained. M.p.: 172°-174° C. Rf (A)=0.43.

reactant | alpha-(acetylaminooxy)-thioacetamide | 10 millimoles, 1.48 g | C(C)(=O)NOCC(=S)N | C4H8N2O2S
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | sulfuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium acetate | 2.8 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | acetic anhydride | 1.3 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-Acetyl-3-phenyl-tetrahydro-1,2,4-oxadiazine-5-thion | 1.25 g, 52.9% | C(C)(=O)N1OCC(NC1C1=CC=CC=C1)=S | C11H12N2O2S
